US06395737B1
c) {2-(R,S)-Benzylcarbamoyl-3-[4-(N-hydroxycarbamimidoyl)-phenyl]-propionylamino}-(S)-cyclohexyl-acetic Acid Methyl Ester
A suspension of [2-(R,S)-benzylcarbamoyl-3-(4-cyano-phenyl)-propionylamino]-(S)-cyclohexyl-acetic acid methyl ester (9 g, 19.5 mmol) and hydroxylamine (3.22 g, 97.5 mmol) in ethanol (180 ml) was heated to reflux for 4 hours. The reaction mixture was cooled to room temperature, evaporated in vacuo, solved in ethanol and poured in ice-water. The precipitate was collected by suction and dried at 50° C. in vacuo to give 7.9 g (82%) of the desired product. mp.: 101-104° C., MS m/z: 495 (M+H)+.

reactant | [2-(R,S)-benzylcarbamoyl-3-(4-cyano-phenyl)-propionylamino]-(S)-cyclohexyl-acetic acid methyl ester | 19.5 mmol, 9 g | COC([C@H](C1CCCCC1)NC(C(CC1=CC=C(C=C1)C#N)C(NCC1=CC=CC=C1)=O)=O)=O | C27H31N3O4
reactant | hydroxylamine | 97.5 mmol, 3.22 g | NO | H3NO
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | {2-(R,S)-Benzylcarbamoyl-3-[4-(N-hydroxycarbamimidoyl)-phenyl]-propionylamino}-(S)-cyclohexyl-acetic Acid Methyl Ester | 7.9 g, 82% | COC([C@H](C1CCCCC1)NC(C(CC1=CC=C(C=C1)C(NO)=N)C(NCC1=CC=CC=C1)=O)=O)=O | C27H34N4O5
